US08058299B2
To a solution of 1-{4-[(2-phenyl-5-trifluoromethyl-oxazole-4-carbonyl)-amino]-phenyl}-piperidine-4-carboxylic acid (229.5 mg, 0.5 mmol) in DMF (4 mL) was added piperidine-4-carboxylic acid ethyl ester (79 mg, 0.5 mmol), PyBrop (233.1 mg, 0.5 mmol) and triethylamine (0.1 mL). The mixture was stirred overnight and solvents were evaporated. The residue was extracted with ethyl acetate and water. After the evaporation of solvents, the residue was purified through flash column chromatography using ethyl acetate and hexanes. The desired fraction was evaporated and triturated with ether and petroleum ether (2:1) to give a yellow solid as 1-(1-{4-[(2-phenyl-5-trifluoromethyl-oxazole-4-carbonyl)-amino]-phenyl}-piperidine-4-carbonyl)-piperidine-4-carboxylic acid ethyl ester. LC-MS showed a single peak with a retention time of 3.54 min. LRMS calcd for C31H33F3N4O5 (M+H) 599.24, obsd 599.3

reactant | 1-{4-[(2-phenyl-5-trifluoromethyl-oxazole-4-carbonyl)-amino]-phenyl}-piperidine-4-carboxylic acid | 0.5 mmol, 229.5 mg | C1(=CC=CC=C1)C=1OC(=C(N1)C(=O)NC1=CC=C(C=C1)N1CCC(CC1)C(=O)O)C(F)(F)F | C23H20F3N3O4
reactant | piperidine-4-carboxylic acid ethyl ester | 0.5 mmol, 79 mg | C(C)OC(=O)C1CCNCC1 | C8H15NO2
reactant | PyBrop | 0.5 mmol, 233.1 mg | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)Br.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 0.1 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 1-(1-{4-[(2-phenyl-5-trifluoromethyl-oxazole-4-carbonyl)-amino]-phenyl}-piperidine-4-carbonyl)-piperidine-4-carboxylic acid ethyl ester | C(C)OC(=O)C1CCN(CC1)C(=O)C1CCN(CC1)C1=CC=C(C=C1)NC(=O)C=1N=C(OC1C(F)(F)F)C1=CC=CC=C1 | C31H33F3N4O5
